US03962053
Seigle and Hass, J. Org. Chem., 5, 100(1940), reported the reaction of the sodium salt of nitrocyclohexane with 2-bromo-2-nitropropane to give 1-(1-methyl-1-nitroethyl)-1-nitrocyclohexane. From the sodium salt of 2-nitropropane and 2-bromo-2-nitropropane they obtained 2,3-dimethyl-2,3-dinitrobutane. Other compounds prepared in like manner were 2,3-dimethyl-2,3-dinitropentane and 3,4-dimethyl-3,4-dinitrohexane. The method is limited to the preparation of α,β-dinitro compounds, and only low yields were reported.

reactant | sodium | [Na] | Na
reactant | nitrocyclohexane | [N+](=O)([O-])C1CCCCC1 | C6H11NO2
reactant | 2-bromo-2-nitropropane | BrC(C)(C)[N+](=O)[O-] | C3H6BrNO2
product | 1-(1-methyl-1-nitroethyl)-1-nitrocyclohexane | CC(C)([N+](=O)[O-])C1(CCCCC1)[N+](=O)[O-] | C9H16N2O4
